US07595312B2
(S)-2-(4-amino-3-trifluoromethyl-benzyl)-1-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl-]-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butan-1,4-dione
100 mg 10% Pd/C were added to a solution of 150 mg (0.2 mmol) (S)-2-(4-amino-3-bromo-5-trifluoromethyl-benzyl)-1-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butan-1,4-dione in 20 mL MeOH and the reaction mixture was hydrogenated at 50 psi H2 for 3 h at RT. The catalyst was suction filtered, the solvent was evaporated down i.vac., the residue was combined with 5% K2CO3 solution and EtOAc, the organic phase was separated off and evaporated down i.vac. The residue was triturated with diisopropylether and suction filtered.

reactant | (S)-2-(4-amino-3-bromo-5-trifluoromethyl-benzyl)-1-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butan-1,4-dione | 0.2 mmol, 150 mg | NC1=C(C=C(C[C@H](C(=O)N2CCC(CC2)N2CCN(CC2)C)CC(=O)N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)C=C1C(F)(F)F)Br | C36H47BrF3N7O3
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | (S)-2-(4-amino-3-trifluoromethyl-benzyl)-1-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl-]-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butan-1,4-dione | NC1=C(C=C(C[C@H](C(=O)N2CCC(CC2)N2CCN(CC2)C)CC(=O)N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)C=C1)C(F)(F)F | C36H48F3N7O3
